US06080743
N-(7-Bromo-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-oxalamic acid ethyl ester
254 mg (0.79 mmol) of N-(7-bromo-2,3-dimethoxy-quinoxalin-5-ylmethyl)-oxalamic acid ethyl ester are dissolved in 6 ml of an approximately 25% solution of hydrogen bromide in acetic acid, and the solution is stirred at room temperature for 16 hours. The mixture is diluted with diethyl ether, and the solid is filtered off and washed with diethyl ether. After drying under a high vacuum, the title compound is obtained in the form of a beige solid.

reactant | N-(7-bromo-2,3-dimethoxy-quinoxalin-5-ylmethyl)-oxalamic acid ethyl ester | 0.79 mmol, 254 mg | C(C)OC(C(=O)NCC1=C2N=C(C(=NC2=CC(=C1)Br)OC)OC)=O | C15H16BrN3O5
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(7-Bromo-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-oxalamic acid ethyl ester | C(C)OC(C(=O)NCC1=C2NC(C(NC2=CC(=C1)Br)=O)=O)=O | C13H12BrN3O5
